US06462092B1
A toluene solution (5 mL) of 3-(1,1,2,2-tetrafluoroethoxy)benzaldehyde (0.45 g, 2.0 mol) and N-(3-phenoxyphenyl)-3-amino-1,1,1-trifluoro-2-propanol (0.60 g, 2.0 mmol) was refluxed in the presence of molecular sieves and ZnI2 (˜5 mg) for 18 h under N2. The reaction mixture was filtered to remove the sieves, and the filtrate was diluted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4) and evaporated to give 0.92 g (92%) of the desired 3-(3-phenoxyphenyl)-2-[3-(1,1,2,2-tetrafluoro-ethoxy)phenyl]-5-(trifluoromethyl) oxazolidine product as a colorless oil. The formation of the desired product was monitored by the disappearance of the aldehyde peak (δ10) in the 1H NMR spectrum. HRMS calcd. 502.1253 [M+H]+, found: 502.1220.

reactant | 3-(1,1,2,2-tetrafluoroethoxy)benzaldehyde | 2.0 mol, 0.45 g | FC(C(F)F)(OC=1C=C(C=O)C=CC1)F | C9H6F4O2
reactant | N-(3-phenoxyphenyl)-3-amino-1,1,1-trifluoro-2-propanol | 2.0 mmol, 0.60 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)NCC(C(F)(F)F)O | C15H14F3NO2
catalyst | ZnI2 | ˜5 mg | [Zn+2].[I-].[I-]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(3-phenoxyphenyl)-2-[3-(1,1,2,2-tetrafluoro-ethoxy)phenyl]-5-(trifluoromethyl) oxazolidine | 0.92 g, 92% | O(C1=CC=CC=C1)C=1C=C(C=CC1)N1C(OC(C1)C(F)(F)F)C1=CC(=CC=C1)OC(C(F)F)(F)F | C24H18F7NO3
